US08445529B2
2-Aminocarbonylamino-6-(4-chlorophenyloxy)indole-3-carboxamide (Compound No.9-1)
Under ice-cooling, a solution of sodium nitrite (42 mg, 0.61 mmol) in water (400 μL) was added to a suspension of 2-aminocarbonylamino-6-(4-aminophenyloxy) indole-3-carboxamide (Compound No.5-1, 99 mg, 0.30 mmol) in anhydrous dichloromethane (2 mL) and 6N hydrochloric acid (4 mL) and the mixture was stirred for 2 hours. Moreover a solution of copper(I) chloride (162 mg, 1.6 mmol) in concentrated hydrochloric acid (500 μL) was added thereto and the mixture was stirred 30 minutes. The whole was stirred overnight at room temperature. The reaction solution was diluted with water (30 mL) and methanol (20 mL), extracted with ethyl acetate (100 mL). The organic layer was washed with brine (100 mL) and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, the residue was purified by silica gel column chromatography to give the title compound (9 mg) as a brown solid (8%).

reactant | sodium nitrite | 0.61 mmol, 42 mg | N(=O)[O-].[Na+]
reactant | 2-aminocarbonylamino-6-(4-aminophenyloxy) indole-3-carboxamide | 0.30 mmol, 99 mg | NC(=O)NC=1NC2=CC(=CC=C2C1C(=O)N)OC1=CC=C(C=C1)N | C16H15N5O3
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | 400 μL | O | H2O
solvent | hydrochloric acid | 6N, 4 mL | Cl | ClH
solvent | hydrochloric acid | 500 μL | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
catalyst | copper(I) chloride | 1.6 mmol, 162 mg | [Cu]Cl
product | 2-Aminocarbonylamino-6-(4-chlorophenyloxy)indole-3-carboxamide | 9 mg, 8% | NC(=O)NC=1NC2=CC(=CC=C2C1C(=O)N)OC1=CC=C(C=C1)Cl | C16H13ClN4O3
